US04022833
In a manner similar to that of Example 1, condensation of 1-undecene oxide (40 g.) and ethylenediamine (7.07 g.) and two recrystallizations of the resulting solid (14.9 g.) from ethanol gave N,N'-ethylenebis[2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R' = H, X= (CH2)2, Z= H) (12.4 g., m.p. 130.2°-137.8° C.).

reactant | 1-undecene oxide | 40 g | C1C(CCCCCCCCC)O1 | C11H22O
reactant | ethylenediamine | 7.07 g | C(CN)N | C2H8N2
solvent | ethanol | C(C)O | C2H6O
product | N,N'-ethylenebis[2-hydroxyundecylamine] | C(CNCC(CCCCCCCCC)O)NCC(CCCCCCCCC)O | C24H52N2O2
